US05506235
B. 4-(4-Butylphenylamino)quinolin-8-ol Hydrochloride Hydrate
In a flame dried single-neck round bottom flask equipped with a Dean-Stark trap and a condenser, a solution of 1.0 g (2.9 mmol) of N-(4-butylphenyl)-8-methoxyquinolin-4-amine hydrochloride and 20 mL of toluene was treated with 1.9 g (14.5 mmol) of anhydrous aluminum chloride. This was heated under reflux for five hours, and then allowed to cool to room temperature. The reaction solution was treated dropwise with water until a sticky solid formed. Work-up of the mixture eventually afforded mg of crude product. This was recrystallized from water-formic acid to furnish 340 mg (34%) of the title compound: m.p. 269° C.

reactant | N-(4-butylphenyl)-8-methoxyquinolin-4-amine hydrochloride | 2.9 mmol, 1.0 g | Cl.C(CCC)C1=CC=C(C=C1)NC1=CC=NC2=C(C=CC=C12)OC
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
reactant | aluminum chloride | 14.5 mmol, 1.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | water | O | H2O
product | 4-(4-Butylphenylamino)quinolin-8-ol Hydrochloride Hydrate | 340 mg, 34% | O.Cl.C(CCC)C1=CC=C(C=C1)NC1=CC=NC2=C(C=CC=C12)O | InChI=1S/C19H20N2O.ClH.H2O/c1-2-3-5-14-8-10-15(11-9-14)21-17-12-13-20-19-16(17)6-4-7-18(19)22;;/h4,6-13,22H,2-3,5H2,1H3,(H,20,21);1H;1H2
